US06326359B1
2-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}-(4-isopropyl-1-piperidinyl)-1-ethanone
4-Isopropylpiperidine (J. Am. Chem. Soc. 2592, 68, 1946) (105 mg, 0.64 mmol) was added to a stirred solution of 2-{9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetic acid (300 mg, 0.58 mmol) (preparation 51), N,N′-dicyclohexylcarbodiimide (150 mg, 0.64 mmol), 1H-1,2,3-benzotriazol-1-ol monohydrate (110 mg, 0.71 mmol) and N-ethyl-N-isopropyl-2-propanamine (190 mg, 1.47 mmol) in dichloromethane (15 ml). The reaction mixture was stirred for 24 hr at room temperature. The solvent was then removed under reduced pressure, then the residue treated with ethyl acetate and the mixture filtered. The solid was washed with ethyl acetate and the combined ethyl acetate filtrates washed with saturated aqueous sodium hydrogen carbonate solution, brine and dried with anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (95:5:0.5) to give some pure and some impure material. The impure material was then re-purified by column chromatography on silica gel eluting with a solvent gradient of ethyl acetate increasing in polarity to ethyl acetate:methanol (95:5). The pure fractions from both columns were combined to give the title compound (285 mg) as a foam. MS: 629 (MH+).

reactant | 4-Isopropylpiperidine | 0.64 mmol, 105 mg | C(C)(C)C1CCNCC1 | C8H17N
reactant | 2-{9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetic acid | 0.58 mmol, 300 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)O | C27H29N5O6
reactant | N,N′-dicyclohexylcarbodiimide | 0.64 mmol, 150 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1H-1,2,3-benzotriazol-1-ol monohydrate | 0.71 mmol, 110 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | N-ethyl-N-isopropyl-2-propanamine | 1.47 mmol, 190 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}-(4-isopropyl-1-piperidinyl)-1-ethanone | 285 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)N1CCC(CC1)C(C)C | C35H44N6O5
